US04154947
Preparation of 1-(2,6-Dimethylbenzylideneamino)-3-(4-pyridylmethyl)guanidine hydriodide
A mixture of 2.93 g. of 1-amino-3-(4-pyridylmethyl)guanidine hydriodide and 1.34 g. of 2,6-dimethylbenzaldehyde in 5 ml. of glacial acetic acid is heated at 100° C. After 2 hours the solidified reaction mixture is triturated with water and filtered. Crystallization from absolute ethanol gives the desired product as colorless granular crystals, m.p. 197°-200° C.

reactant | 1-amino-3-(4-pyridylmethyl)guanidine hydriodide | I.NNC(=N)NCC1=CC=NC=C1
reactant | 2,6-dimethylbenzaldehyde | CC1=C(C=O)C(=CC=C1)C | C9H10O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(2,6-Dimethylbenzylideneamino)-3-(4-pyridylmethyl)guanidine hydriodide | I.CC1=C(C=NNC(=N)NCC2=CC=NC=C2)C(=CC=C1)C | InChI=1S/C16H19N5.HI/c1-12-4-3-5-13(2)15(12)11-20-21-16(17)19-10-14-6-8-18-9-7-14;/h3-9,11H,10H2,1-2H3,(H3,17,19,21);1H
